US08044213B2
To a solution of 2.80 g (0.37 mole) of thiourea in 1200 mL of ethanol was added 11.40 g (0.37 mole) of 2-bromo-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide. After stirring at room temperature overnight, the mixture was concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (gradient 100:0-80:20) gave 11.80 g of 2-carbamimidoylsulfanyl-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide as a yellow solid.

reactant | thiourea | 0.37 mole, 2.80 g | NC(=S)N | CH4N2S
reactant | 2-bromo-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide | 0.37 mole, 11.40 g | BrC(C(=O)N)C(C1=C(C=CC=C1)C(F)(F)F)=O | C10H7BrF3NO2
solvent | ethanol | 1200 mL | C(C)O | C2H6O
product | 2-carbamimidoylsulfanyl-3-oxo-3-(2-trifluoromethyl-phenyl)-propionamide | 11.80 g | C(N)(=N)SC(C(=O)N)C(C1=C(C=CC=C1)C(F)(F)F)=O | C11H10F3N3O2S
